US08110581B2
Step 4. 2-(3-methylpyridin-4-yl)-7-[5-(trifluoromethyl)pyridin-2-yl]-2,7-diazaspiro[4.5]decan-1-one
To a solution of 7-[5-(trifluoromethyl)pyridin-2-yl]-2,7-diazaspiro[4.5]decan-1-one (24.4 mg, 0.0000814 mol) in 1,4-dioxane (0.5 mL, 0.006 mol) were added (1S,2S)—N,N′-dimethylcyclohexane-1,2-diamine (2.3 mg, 0.000016 mol), copper(I) iodide (1.6 mg, 0.0000081 mol), 4-bromo-3-methylpyridine (28 mg, 0.00016 mol) and potassium carbonate (23.6 mg, 0.000171 mol); and the mixture was stirred at 100° C. overnight. The product was purified by prep-HPLC. LC-MS: 391.2 (M+H)+.

reactant | 7-[5-(trifluoromethyl)pyridin-2-yl]-2,7-diazaspiro[4.5]decan-1-one | 0.0000814 mol, 24.4 mg | FC(C=1C=CC(=NC1)N1CC2(CCNC2=O)CCC1)(F)F | C14H16F3N3O
reactant | 1,4-dioxane | 0.006 mol, 0.5 mL | O1CCOCC1 | C4H8O2
reactant | (1S,2S)—N,N′-dimethylcyclohexane-1,2-diamine | 0.000016 mol, 2.3 mg | CN[C@@H]1[C@H](CCCC1)NC | C8H18N2
reactant | 4-bromo-3-methylpyridine | 0.00016 mol, 28 mg | BrC1=C(C=NC=C1)C | C6H6BrN
reactant | potassium carbonate | 0.000171 mol, 23.6 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | copper(I) iodide | 0.0000081 mol, 1.6 mg | [Cu]I
product | 2-(3-methylpyridin-4-yl)-7-[5-(trifluoromethyl)pyridin-2-yl]-2,7-diazaspiro[4.5]decan-1-one | CC=1C=NC=CC1N1C(C2(CC1)CN(CCC2)C2=NC=C(C=C2)C(F)(F)F)=O | C20H21F3N4O
